US07250429B2
Ethyl 6-formylthiazolo[3,2-a]benzimidazole-2-carboxylate
Triethylamine (39.02 ml) and sulfur trioxide-pyridine mixture (55.71 g) were added to a DMSO (300 ml) solution of ethyl 6-hydroxymethylthiazolo[3,2-a]benzimidazole-2-carboxylate (19.34 g). The reaction mixture was stirred for 2 hours accompanied by exothermic reaction. After completion of the reaction, the reaction mixture was carefully added to saturated sodium bicarbonate aqueous solution. The insoluble matter was collected by filtration, washed with water and then dried by heating under a reduced pressure to obtain the pale ivory-colored title compound (19.10 g).

reactant | Triethylamine | 39.02 ml | C(C)N(CC)CC | C6H15N
reactant | sulfur trioxide-pyridine | 55.71 g | N1=CC=CC=C1.S(=O)(=O)=O
reactant | ethyl 6-hydroxymethylthiazolo[3,2-a]benzimidazole-2-carboxylate | 19.34 g | OCC=1C=CC2=C(N3C(=N2)SC(=C3)C(=O)OCC)C1 | C13H12N2O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMSO | 300 ml | CS(=O)C | C2H6OS
product | Ethyl 6-formylthiazolo[3,2-a]benzimidazole-2-carboxylate | 19.10 g | C(=O)C=1C=CC2=C(N3C(=N2)SC(=C3)C(=O)OCC)C1 | C13H10N2O3S
